US07402595B2
2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester
A mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), palladium(II) acetate (8 mg), 1,1′-bis(diphenylphosphino)ferrocene (20 mg), triethylamine (0.23 ml), DMF (3 ml) and methanol (3 ml) was stirred at 50° C. under 1 atm carbon monoxide for 24 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) and recrystallized (ethyl acetate-hexane) to give the title compound (180 mg).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C24H18BrNO3
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 3 ml | CO | CH4O
catalyst | palladium(II) acetate | 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 20 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Water | O | H2O
product | 2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester | 180 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)=O)CC1=CC=CC=C1 | C26H21NO5
